US07989442B2
i. (−)-(cis)-N-(7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d] [1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide
To a solution of (−)-(cis)-7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-amine (27.51 g, 75.78 mmol) in a mixture of CH2Cl2 (866 mL) and pyridine (33.56 mL), trifluoroacetic anhydride (33.84 mL, 242 mmol) was added and the resulting mixture was stirred at ambient temperature for 1.5 h. The crystals formed were collected by filtration, washed with CH2Cl2 and with water, and dried under reduced pressure to yield the title compound (−)-(cis)-N-(7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (31.36 g, 90%). 1H-NMR (400 MHz, DMSO) 1.60-1.85 (m, 3H), 1.97-2.04 (m, 1H), 3.07-3.16 (m, 1H), 3.73-3.80 (d, J=12.9, 1H), 4.07-4.10 (d, J=9.7, 1H), 4.31-4.42 (m, 1H), 7.04-7.09 (m, 1H), 7.15-7.21 (m, 2H), 7.24-7.33 (m, 3H), 9.18-9.21 (d, J=9.7, 1H). (m/z)=459+461 (M+H)+. [α]D20=−197° (c=1.0055, THF).

reactant | (−)-(cis)-7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-amine | 75.78 mmol, 27.51 g | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4N)C=CC=C3)C=C1F | C17H16BrFN2O
reactant | trifluoroacetic anhydride | 242 mmol, 33.84 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 866 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 33.56 mL | N1=CC=CC=C1 | C5H5N
product | (−)-(cis)-N-(7-bromo-8-fluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 31.36 g, 90% | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1F | C19H15BrF4N2O2
